US07378414B2
benzyl 2-methyl-2-phenylpent-4-enoate
A solution of 2-phenyl-propionic acid benzyl ester (2.0 g, 8.32 mmol), allyl bromide (0.865 mL, 9.99 mmol), and lithium iodide (1 g) in tetrahydrofuran (15 mL) at 0° C. was treated dropwise with the lithium hexamethyldisilazide (9.99 mL, 1M in tetrahydrofuran, 9.99 mmol). The reaction was allowed to warm to 25° C. and stirred for 18 hours. The solvent was removed in vacuo and the residue was partitioned between water and ethyl acetate. The aqueous phase was extracted three times with ethyl acetate and the ethyl acetate layers were combined, dried with sodium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel eluting with hexane, then 10% ethyl acetate in hexane, and 20% ethyl acetate in hexane to give the title compound (2.31 g, 99%). 1H NMR (300 MHz, CDCl3): δ ppm 1.56 (m, 3 H) 2.68 (m, 1 H) 2.85 (m, 1 H) 5.05 (m, 4 H) 5.59 (m, 1 H) 7.26 (m, 10 H).

reactant | 2-phenyl-propionic acid benzyl ester | 8.32 mmol, 2.0 g | C(C1=CC=CC=C1)OC(C(C)C1=CC=CC=C1)=O | C16H16O2
reactant | allyl bromide | 9.99 mmol, 0.865 mL | C(C=C)Br | C3H5Br
reactant | lithium iodide | 1 g | [I-].[Li+]
reactant | lithium hexamethyldisilazide | 9.99 mmol, 1M, 9.99 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | benzyl 2-methyl-2-phenylpent-4-enoate | 2.31 g, 99% | CC(C(=O)OCC1=CC=CC=C1)(CC=C)C1=CC=CC=C1 | C19H20O2
